US07691855B2
{4-[3-(2,4Dichloro-phenyl)-1-methyl-1H-pyrazol-4-yl]-pyrimidin-2-yl}-(3,4-dimethoxy-phenyl)-amine
The title compound is prepared as described in Example 1 but using 2-chloro-4-[3-(2,4-dichloro-phenyl)-1-methyl-1H-pyrazol-4-yl]-pyrimidine and 3,4-dimethoxy-phenylamine.

reactant | 2-chloro-4-[3-(2,4-dichloro-phenyl)-1-methyl-1H-pyrazol-4-yl]-pyrimidine | ClC1=NC=CC(=N1)C=1C(=NN(C1)C)C1=C(C=C(C=C1)Cl)Cl | C14H9Cl3N4
reactant | 3,4-dimethoxy-phenylamine | COC=1C=C(C=CC1OC)N | C8H11NO2
product | {4-[3-(2,4Dichloro-phenyl)-1-methyl-1H-pyrazol-4-yl]-pyrimidin-2-yl}-(3,4-dimethoxy-phenyl)-amine | ClC1=C(C=CC(=C1)Cl)C1=NN(C=C1C1=NC(=NC=C1)NC1=CC(=C(C=C1)OC)OC)C | C22H19Cl2N5O2
